US07071219B2
Under an argon atmosphere 21.0 g (129 mmol) carbonyldiimidazol was added to a solution of 24.1 g (129 mmol) thiophene-2,5-dicarboxylic acid monomethyl ester in 600 ml THF. After 2 h at rt 26.9 g (129 mmol) (2-amino-phenyl)-carbamic acid tert-butyl ester were added and the reaction mixture was stirred for further 4 h at rt. The solvent was evaporated and the residue dissolved in 500 ml ethyl acetate. The organic phase was washed three times with 100 ml saturated aqueous NaHCO3 solution, twice with 80 ml water and was dried over sodium sulfate. The solvent was removed down to 80 ml when crystallization started. After 12 h the crystalls were filtered off and washed with little ice-cold t-butyl methyl ether and cold heptane. Drying under high vacuum yielded 38.9 g (103.4 mmol) 5-(2-tert-butoxycarbonylamino-phenylcarbamoyl)-thiophene-2-carbox-ylic acid methyl ester, 1H-NMR (D6-DMSO) δ=1.45 (s, 9H), 3.87 (s, 3H), 7.14 (m, 1H), 7.22 (m, 1H), 7.46 (m,1H), 7.59 (m, 1H), 7.89 (m, 1H), 7.96 (m, 1H), 8.73 (br, 1H), 10.02 (s, 1H).

reactant | carbonyldiimidazol | 129 mmol, 21.0 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | thiophene-2,5-dicarboxylic acid monomethyl ester | 129 mmol, 24.1 g | COC(=O)C=1SC(=CC1)C(=O)O | C7H6O4S
reactant | (2-amino-phenyl)-carbamic acid tert-butyl ester | 129 mmol, 26.9 g | C(C)(C)(C)OC(NC1=C(C=CC=C1)N)=O | C11H16N2O2
solvent | THF | 600 ml | C1CCOC1 | C4H8O
product | 5-(2-tert-butoxycarbonylamino-phenylcarbamoyl)-thiophene-2-carbox-ylic acid methyl ester | 103.4 mmol, 38.9 g | COC(=O)C=1SC(=CC1)C(NC1=C(C=CC=C1)NC(=O)OC(C)(C)C)=O | C18H20N2O5S
